US07232834B2
A mixture of 0.1 g of methyl (3R,4R)-4-[3-oxo-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylsulfanyl)ethyl]piperidine-3-carboxylate in 2 cm3 of 5N hydrochloric acid is brought to a temperature in the region of 80° C. with stirring and under an inert atmosphere for 5 hours. After cooling to around 20° C., the reaction medium is neutralized with 1.8 cm3 of 5N sodium hydroxide until a pH of 6 is obtained, and is then extracted with 20 cm3 of dichloromethane. The organic phase is dried over magnesium sulfate, filtered, and then evaporated to dryness under reduced pressure (2 kPa) at a temperature in the region of 30° C. The residue obtained is purified by chromatography on a column of silica gel (particle size 70–200 μm; diameter 2 cm), eluting with a mixture of dichloromethane-methanol-aqueous ammonia (28%) (40/5/0.5 by volume) and collecting fractions of 10 cm3. The fractions containing the expected product are pooled and then evaporated according to the conditions described above. 0.072 g of (3R,4R)-4-[3-oxo-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylsulfanyl)ethyl]piperidine-3-carboxylic acid, in the form of a beige-colored solid, is obtained.

reactant | methyl (3R,4R)-4-[3-oxo-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylsulfanyl)ethyl]piperidine-3-carboxylate | 0.1 g | O=C(CC[C@H]1[C@H](CN(CC1)CCSC1=C(C=CC(=C1)F)F)C(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C28H29F3N2O4S
reactant | sodium hydroxide | 5N, 1.8 cm3 | [OH-].[Na+]
solvent | hydrochloric acid | 5N, 2 cm3 | Cl | ClH
product | (3R,4R)-4-[3-oxo-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylsulfanyl)ethyl]piperidine-3-carboxylic acid | 0.072 g | O=C(CC[C@H]1[C@H](CN(CC1)CCSC1=C(C=CC(=C1)F)F)C(=O)O)C1=C(C=NC2=CC=C(C=C12)OC)F | C27H27F3N2O4S
